US05055451
L-Phenylalanyl-L-alanine 2,4,6-trimethylbenzoyloxymethylketone Hydrochloride
To a mixture of N-CBZ-L-phenylalanyl-L-alanine 2,4,6-trimethylbenzoyloxymethyl ketone (0.38 mmol, 200 mg) in 100 mL of ethanol containing 150 μL (0.75 mmol) of 5 N HCl was added 10% palladium on charcoal (20 mg). This mixture was vigorously stirred under an atmosphere of hydrogen gas for 3 hours, the catalyst was removed by filtration through a bed of Celite, and the filtrate was rotary evaporated under reduced pressure. The residue was then precipitated from ethanol-ethyl ether, washed with ethyl ether, and dried at high vacuum to quantitatively afford the product as a powder, m.p. 123°-126° C.

reactant | N-CBZ-L-phenylalanyl-L-alanine 2,4,6-trimethylbenzoyloxymethyl ketone | 0.38 mmol, 200 mg | CC1=C(C(=O)OCC(=O)COC(C2=C(C=C(C=C2C)C)C)=O)C(=CC(=C1)C)C.C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O
reactant | ethanol | 0.75 mmol, 100 mL | C(C)O | C2H6O
reactant | HCl | 5 N | Cl | ClH
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | L-Phenylalanyl-L-alanine 2,4,6-trimethylbenzoyloxymethylketone Hydrochloride | Cl.CC1=C(C(=O)OCC(=O)COC(C2=C(C=C(C=C2C)C)C)=O)C(=CC(=C1)C)C.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O | InChI=1S/C23H26O5.C12H16N2O3.ClH/c1-13-7-15(3)20(16(4)8-13)22(25)27-11-19(24)12-28-23(26)21-17(5)9-14(2)10-18(21)6;1-8(12(16)17)14-11(15)10(13)7-9-5-3-2-4-6-9;/h7-10H,11-12H2,1-6H3;2-6,8,10H,7,13H2,1H3,(H,14,15)(H,16,17);1H/t;8-,10-;/m.0./s1
